US07834190B2
Production of (2S,3R)-3-benzyl-2-oxiranecarboxylic cyclopropylamide
(2S,3R)-3-Benzyl-2-oxiranecarboxylic acid (66 mg) and a chlorobenzene solution (2 ml) of cyclopropylamine (23.2 mg, 1.1 equivalents) were mixed, and the mixture was cooled to 5° C. A methylene chloride solution (2 ml) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.5 equivalents) was gradually added, and the mixture was stirred at room temperature for 14 hours. Saturated aqueous solution of sodium hydrogencarbonate (5 ml) was added to the reaction mixture, and the reaction mixture was extracted with ethyl acetate (10 ml). The organic layer was washed with 1 N hydrochloric acid (5 ml) and water (5 ml) in order, and the solvent was evaporated away under reduced pressure to obtain the title compound as a brown oil (50 mg, yield: 62%).

reactant | (2S,3R)-3-Benzyl-2-oxiranecarboxylic acid | 66 mg | C(C1=CC=CC=C1)[C@@H]1[C@H](O1)C(=O)O | C10H10O3
reactant | cyclopropylamine | 23.2 mg, 1.1 equivalents | C1(CC1)N | C3H7N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.5 equivalents | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | chlorobenzene | 2 ml | ClC1=CC=CC=C1 | C6H5Cl
product | (2S,3R)-3-benzyl-2-oxiranecarboxylic cyclopropylamide | 50 mg, yield: 62% | C1(CC1)NC(=O)[C@H]1O[C@@H]1CC1=CC=CC=C1 | C13H15NO2
